US07511050B2
Step B: 7-bromo-9-pentyl-3-(trifluoromethyl)-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
To the mixture of 9-pentyl-3-(trifluoromethyl)-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one (50 mg, 0.16 mmol) in tetrahydrofuran (10 mL) was added N-bromosuccinimide (42 mg, 0.24 mmol). The mixture was stirred at 70° C. for 3 hour. The reaction mixture was concentrated and purified by preparative LCMS to yield the desired product. 1HNMR (300 MHz, CD3OD): δ 4.44 (t, J=7.6 Hz, 2H), 1.94 (m, 2H), 1.42 (m, 4H), 0.93 (m, 3H). LCMS calculated for C12H13BrF3N6O(M+H): 393.0, found: 393.0, 395.0.

reactant | 9-pentyl-3-(trifluoromethyl)-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 0.16 mmol, 50 mg | C(CCCC)N1C=2N(C(C=3NC=NC13)=O)C(=NN2)C(F)(F)F | C12H13F3N6O
reactant | N-bromosuccinimide | 0.24 mmol, 42 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 7-bromo-9-pentyl-3-(trifluoromethyl)-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | BrC1=NC=2N(C=3N(C(C2N1)=O)C(=NN3)C(F)(F)F)CCCCC | C12H12BrF3N6O
